US04711889
A solution of 11.5 g of 10-[2-(diethylamino)ethyl]-9-acridanone in 250 ml of dichloromethane is treated at -5° and within 0.5 hour with 6.7 ml of oxalyl chloride, stirred at room temperature for 1 hour, the yellow crystals (9-chloro-10-[2-(diethylamino)ethyl]acridinium chloride) which have formed are filtered and washed successively with methylene chloride and petroleum ether. The material obtained is taken up in 200 ml of methanol, treated with 3.6 g of thiosemicarbazide and stirred at room temperature for about 18 hours. The precipitated salt is filtered and washed successively with ethanol and ether. There is obtained 10-[2-(diethylamino)ethyl]-9-acridanone thiosemicarbazone dihydrochloride (crystallizing with 1 mol of methanol) of melting point 124° (decomposition). This material is treated with 1N sodium hydroxide solution and extracted with dichloromethane. The solution is washed with water, dried and evaporated, whereupon the product is crystallized from acetonitrile. There is obtained 10-[2-(diethylamino)ethyl]-9-acridanone thiosemicarbazone of melting point 154°-156°.

reactant | 10-[2-(diethylamino)ethyl]-9-acridanone | 11.5 g | C(C)N(CCN1C=2C=CC=CC2C(C2=CC=CC=C12)=O)CC | C19H22N2O
reactant | oxalyl chloride | 6.7 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 9-chloro-10-[2-(diethylamino)ethyl]acridinium chloride | [Cl-].ClC=1C2=CC=CC=C2[N+](=C2C=CC=CC12)CCN(CC)CC | InChI=1S/C19H22ClN2.ClH/c1-3-21(4-2)13-14-22-17-11-7-5-9-15(17)19(20)16-10-6-8-12-18(16)22;/h5-12H,3-4,13-14H2,1-2H3;1H/q+1;/p-1
